US06342511B1
Stage 13a: 4-(3-hydroxypiperidino)-tetrahydro-4H-thiopyran-4-carbonitrile
3-hydroxy-piperidine hydrochloride (6.5 g, 47.3 mmoles) in 30 ml of water is introduced into a 100 ml two-necked flask. Potassium cyanide (1.85 g, 35.5 mmoles) is added and tetrahydro-4H-thiopyran-4-one (2.7 g, 23.6 mmoles) is introduced dropwise. The pH of the medium is adjusted to 11 with a few drops of soda (10%). After 24 hours under agitation at ambient temperature, extraction with ether (3×80 ml) is carried out, the combined organic phases are washed with water (100 ml), dried over Na2SO4, filtered and concentrated to dryness. In this way, a colourless oil is obtained (3.9 g, 17.2 mmoles).

reactant | 3-hydroxy-piperidine hydrochloride | 47.3 mmoles, 6.5 g | Cl.OC1CNCCC1
reactant | Potassium cyanide | 35.5 mmoles, 1.85 g | [C-]#N.[K+]
reactant | tetrahydro-4H-thiopyran-4-one | 23.6 mmoles, 2.7 g | S1CCC(CC1)=O | C5H8OS
solvent | water | 30 ml | O | H2O
product | 4-(3-hydroxypiperidino)-tetrahydro-4H-thiopyran-4-carbonitrile | OC1CN(CCC1)C1(CCSCC1)C#N | C11H18N2OS
